US07981914B2
A suspension of 3-amino-5-(3-methoxy-pyridin-2-yl)-benzoic acid methyl ester (530 mg, 1.96 mmol) in trimethoxymethane (1.5 mL) was stirred under nitrogen for 5 minutes. NaN3 (390 mg, 5.9 mmol) was added slowly, followed by HOAc (10 mL). The reaction mixture was stirred at room temperature for 72 hours, then was concentrated under reduced pressure. The residue was partitioned between water and EtOAc. The combined organic layers were washed with water, dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified via flash chromatography through 80 g of silica using EtOAc/hexanes (20%-100%) to give 170 mg of 3-(3-methoxy-pyridin-2-yl)-5-tetrazol-1-yl-benzoic acid methyl ester, MS (M+H)=312.

reactant | 3-amino-5-(3-methoxy-pyridin-2-yl)-benzoic acid methyl ester | 1.96 mmol, 530 mg | COC(C1=CC(=CC(=C1)C1=NC=CC=C1OC)N)=O | C14H14N2O3
reactant | NaN3 | 5.9 mmol, 390 mg | [N-]=[N+]=[N-].[Na+]
reactant | HOAc | 10 mL | CC(=O)O | C2H4O2
solvent | trimethoxymethane | 1.5 mL | COC(OC)OC | C4H10O3
product | 3-(3-methoxy-pyridin-2-yl)-5-tetrazol-1-yl-benzoic acid methyl ester | 170 mg | COC(C1=CC(=CC(=C1)N1N=NN=C1)C1=NC=CC=C1OC)=O | C15H13N5O3
